US07432258B2
b) [6-Methyl-5-(methyloxy)-2-oxo-1,3-benzoxazol-3(2H)-yl]acetic acid
To a solution of 6-methyl-5-(methyloxy)-1,3-benzoxazol-2(3H)-one (1.76 g, 9.8 mmol) in DMF (20 mL) was added NaH (470 mg, 11.8 mmol) in two portions. The reaction mixture was stirred for 30 minutes at room temperature, and ethyl bromoacetate (1.09 mL, 9.8 mmol) was added. The reaction mixture was stirred for 3 hour until all starting material was consumed, then poured into cold water (100 mL). The precipitate which formed was collected by filtration, washed with water, and dried in the air to afford a pale solid. This solid was dissolved in THF (20 mL) and NaOH (2.0 M, 4.9 mL) was added, and the reaction mixture was stirred at room temperature for 2 hours, poured into cold water (100 mL), and extracted with EtOAc (2×100 mL). The aqueous layer was acidified with HCl (6 N) to pH˜1, extracted with EtOAc (3×100 mL). The organic extracts were combined, washed with brine, and dried (Na2SO4). The solvent was removed via rotovap to give the title compound (2.16 g, 93%) as a pale solid. MS (ES) m/e 238 [M+H]+.

reactant | 6-methyl-5-(methyloxy)-1,3-benzoxazol-2(3H)-one | 9.8 mmol, 1.76 g | CC1=CC2=C(NC(O2)=O)C=C1OC | C9H9NO3
reactant | NaH | 11.8 mmol, 470 mg | [H-].[Na+]
reactant | ethyl bromoacetate | 9.8 mmol, 1.09 mL | BrCC(=O)OCC | C4H7BrO2
reactant | NaOH | 2.0 M, 4.9 mL | [OH-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | [6-Methyl-5-(methyloxy)-2-oxo-1,3-benzoxazol-3(2H)-yl]acetic acid | 2.16 g, 93% | CC1=CC2=C(N(C(O2)=O)CC(=O)O)C=C1OC | C11H11NO5
